US07795448B2
N-((1R)-4-Amino-1-{[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}-4-oxobutyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide
To a solution of (4R)-4-[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]-5-[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pentanoic acid (900 mg, 1.73 mmol) in anhydrous THF (12.4 mL) at 0° C. under nitrogen was added triethylamine (242 uL, 1.73 mmol) followed by ethyl chloroformate (174 uL, 1.82 mmol). The reaction was stirred for 40 mins at 0° C. and then the solids were filtered and washed with 5 mL THF. The filtrate was added to a flask containing NH4OH (5 mL) at room temperature and the reaction mixture was stirred for 1 hour. The product was extracted from the reaction mixture with EtOAc (50 mL). The aqueous layer was extracted with EtOAc (20 mL) and then acidified with 1N HCl solution (30 mL) and re-extracted with EtOAc (10 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to give a white solid. Purification by recrystallization from hot isopropanol afforded the title compound as a white solid (90%). ESMS [M+H]+=519.4.

reactant | (4R)-4-[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]-5-[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pentanoic acid | 1.73 mmol, 900 mg | ClC=1C=C(C=CC1OC(C)C)C(=O)N[C@H](CCC(=O)O)CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C29H30ClN3O4
reactant | triethylamine | 1.73 mmol, 242 uL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.82 mmol, 174 uL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 12.4 mL | C1CCOC1 | C4H8O
product | N-((1R)-4-Amino-1-{[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}-4-oxobutyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide | 90% | NC(CC[C@H](CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1)NC(C1=CC(=C(C=C1)OC(C)C)Cl)=O)=O | C29H31ClN4O3
